US08791107B2
PREPARATION x19: (R)-2-chloro-5-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine
To a 50 mL round-bottom flask was added (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine (PREPARATION x3, 200 mg, 0.882 mmol) in DMSO (8 mL) followed by sodium tert-butoxide (102 mg, 1.059 mmol). The reaction mixture was stirred at room temperature for 10 minutes. 2-(Chloromethyl)-5-ethyl-1,3,4-oxadiazole (155 mg, 1.059 mmol) was then added to give an orange solution. After 1 hour, LC/MS indicated the reaction was complete. The reaction mixture was subsequently diluted with EtOAc and washed with aqueous saturated NH4Cl (3×). The combined organic layers were dried over MgSO4, filtered, and concentrated. The product was purified by column chromatography (12 g SiO2 column, EtOAc (20-80%)/hexane gradient) to give the title compound as a pale yellow solid (165 mg, 56%). 1H NMR (400 MHz, DMSO-d6) δ 1.24 (t, J=7.58 Hz, 3H), 2.83 (d, J=7.33 Hz, 2H), 2.93-3.03 (m, 1H), 3.04-3.21 (m, 2H), 3.36-3.51 (m, 2H), 3.59-3.71 (m, 1H), 3.85-3.98 (m, 2H), 4.20-4.29 (m, 1H), 4.57-4.67 (m, 1H), 4.84-4.94 (m, 1H), 7.57 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C14H17ClN6O2, 337.78. found 337.2.

reactant | (R)-2-chloro-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 0.882 mmol, 200 mg | ClC1=NC=2N3[C@H](CNC2C=N1)COCC3 | C9H11ClN4O
reactant | sodium tert-butoxide | 1.059 mmol, 102 mg | CC(C)([O-])C.[Na+]
reactant | 2-(Chloromethyl)-5-ethyl-1,3,4-oxadiazole | 1.059 mmol, 155 mg | ClCC=1OC(=NN1)CC | C5H7ClN2O
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-2-chloro-5-((5-ethyl-1,3,4-oxadiazol-2-yl)methyl)-5,6,6a,7,9,10-hexahydro-[1,4]oxazino[3,4-h]pteridine | 165 mg, 56% | ClC1=NC=2N3[C@H](CN(C2C=N1)CC=1OC(=NN1)CC)COCC3 | C14H17ClN6O2
